US07816395B2
g) 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{methyl[(2-nitrophenyl)sulfonyl]amino}butanoate
A mixture of the crude 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{[(2-nitrophenyl)sulfonyl]amino}butanoate from the previous step, MeI (18.2 g, 128 mmol) and K2CO3 (325 mesh, 17.7 g, 128 mmol) in DMF (100 mL) was stirred at room temperature for 70 min. The reaction was diluted with H2O (200 mL) and extracted with Et2O (3×). The organic extracts were washed with H2O (2×), dried over CaCl2, filtered, and concentrated. The crude product was used directly in the next step.

reactant | 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{[(2-nitrophenyl)sulfonyl]amino}butanoate | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C21H23ClN4O6S
reactant | MeI | 128 mmol, 18.2 g | CI | CH3I
reactant | K2CO3 | 128 mmol, 17.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 200 mL | O | H2O
product | 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-{methyl[(2-nitrophenyl)sulfonyl]amino}butanoate | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C22H25ClN4O6S
